US06133273
5-Amino-1-butyl-3,6-dimethyl-1H-pyrimidine-2,4-dione
To 1.48 g (6.14 mmol) of 1-butyl-3,6-dimethyl-5-nitro-1H-pyrimidine-2,4-dione in 60 mL EtOAc was added 500 mg of 10% Pd/C. The resulting mixture was hydrogenated under 1 atm of H2 for 67 h at 23° C. The reaction mixture was then poured through Celite and the solvent evaporated to give 1.24 g (5.87 mmol, a 96% yield) of the title compound as a white solid. mp: 74-75° C.; 1H NMR (300 MHz, CDCl3): δ 0.99 (t, J=7.3 Hz, 3H), 1.40 (hex, J=7.4 Hz, 2H), 1.56-1.67 (m, 2H), 2.22 (s, 3H), 3.39 (s, 3H), 3.84 (t, J=7.3 Hz, 2H), NH2 not visible; IR (KBr, cm-1): 3142w, 2965w, 1719s, 1679s, 1627s, 1380m, 1296m, 1166s, 1063m; MS (ES) m/z (relative intensity): 363 (M+ +H, 100). Anal. Calcd for C10H17N3O2 : C, 43.03; H, 5.28; N, 15.44. Found: C, 43.11; H, 5.33; N, 15.26.

reactant | 1-butyl-3,6-dimethyl-5-nitro-1H-pyrimidine-2,4-dione | 6.14 mmol, 1.48 g | C(CCC)N1C(N(C(C(=C1C)[N+](=O)[O-])=O)C)=O | C10H15N3O4
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 5-Amino-1-butyl-3,6-dimethyl-1H-pyrimidine-2,4-dione | 96% yield | NC=1C(N(C(N(C1C)CCCC)=O)C)=O | C10H17N3O2
